US05635510
74.3 Synthesis of 4-(4-fluoro-phenyl)-piperidine-4-carboxylic acid amide hydrochloride
1-Benzyl-4-(4-fluoro-phenyl)-piperidine-4-carboxylic acid amide N-oxide (5.3 g, 16.3 mmol) and 10% palladium-on-carbon (0.6 g) and acetic acid (100 mL) were combined in a pressure vessel. The reaction mixture was treated with hydrogen on a Parr apparatus at an initial pressure of 53 psi of hydrogen. When hydrogen consumption stopped the catalyst was removed by filtration. The filtrate was evaporated in vacuo to give a residue. The residue was dissolved in ethyl acetate (150 mL), acidified by the addition of 12M aqueous hydrochloric acid solution (5 mL), and heated to reflux for 10 minutes. The mixture was cooled to ambient temperature to give a solid which was collected by filtration, rinsed with ethyl acetate, recrystallized from methanol/ethyl acetate to give the title compound.

reactant | 1-Benzyl-4-(4-fluoro-phenyl)-piperidine-4-carboxylic acid amide N-oxide | 16.3 mmol, 5.3 g | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)[NH2]=O)C1=CC=C(C=C1)F | C19H21FN2O2
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 12M, 5 mL | Cl | ClH
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 0.6 g | [Pd] | Pd
product | 4-(4-fluoro-phenyl)-piperidine-4-carboxylic acid amide hydrochloride | Cl.FC1=CC=C(C=C1)C1(CCNCC1)C(=O)N | InChI=1S/C12H15FN2O.ClH/c13-10-3-1-9(2-4-10)12(11(14)16)5-7-15-8-6-12;/h1-4,15H,5-8H2,(H2,14,16);1H
